US07456180B2
Synthesis of 4-Trifluoromethyl-2-[4-(2-Trifluoromethylbenzoyl)Piperazin-1-yl]-Pyrimidine-5-Carboxylic Acid (3-Methylbutyl)Amide
To an ice-cold solution of 2-piperazin-1-yl-4-trifluoromethyl-pyrimidine-5-carboxylic acid (3-methylbutyl)amide (0.323 g, 0.935 mmol) in dichloromethane (20 mL) was added diisopropylethylamine (0.242 mL, 1.40 mmol). The mixture was stirred for 10 minutes before 2-trifluoromethylbenzoyl chloride (0.175 g, 0.842 mmol) in 5 mL dichloromethane was added. The stirring was continued for another 15 minutes. The reaction was quenched by the addition of saturated sodium bicarbonate solution, followed by water. The mixture was extracted with dichloromethane, and the organic layer was separated, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound in yield 76% (0.225 g, 0.435 mmol). 1H NMR (CDCl3) δ 8.59, 7.73-7.71, 7.64-7.51, 7.35-7.33, 5.76, 4.09-3.74, 3.44-3.37, 3.26-3.22, 1.68-1.59, 1.48-1.41, 0.09. MS (ES+) m/z 518.2 (M+1).

reactant | 2-piperazin-1-yl-4-trifluoromethyl-pyrimidine-5-carboxylic acid (3-methylbutyl)amide | 0.935 mmol, 0.323 g | CC(CCNC(=O)C=1C(=NC(=NC1)N1CCNCC1)C(F)(F)F)C | C15H22F3N5O
reactant | diisopropylethylamine | 1.40 mmol, 0.242 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-trifluoromethylbenzoyl chloride | 0.842 mmol, 0.175 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-Trifluoromethyl-2-[4-(2-Trifluoromethylbenzoyl)Piperazin-1-yl]-Pyrimidine-5-Carboxylic Acid (3-Methylbutyl)Amide | yield 76% | CC(CCNC(=O)C=1C(=NC(=NC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C(F)(F)F)C | C23H25F6N5O2
